US07037632B2
A 10.0 g quantity of 9-fluorenone-4-carbonyl chloride (0.04 mole, obtained from Aldrich Chemicals Co, Milwaukee, Wis. 53201, USA) and 100 ml of tetrahydrofuran (obtained from Aldrich) were added to a 250 ml, 3-neck round bottom flask equipped with a reflux condenser and a mechanical stirrer. The solution was stirred for about ½ hour, and then 5.16 g of 4,4′-thiobisbenzenethiol (0.02 mole, obtained from Aldrich) in 50 ml of tetrahydrofuran were added, followed by the addition of 4.17 g of triethylamine (0.04 mole, obtained from Aldrich). The solution was refluxed for 6 hours, filtered hot to remove triethylamine hydrochloride salt byproduct and the filtrate was evaporated to dryness to obtain a first dimeric fluorenone derivative. The first dimeric fluorenone derivative was recrystallized from tetrahydrofuran/methanol with activated charcoal. The first dimeric fluorenone derivative was dried at 60° C. vacuum oven for 6 hours to yield a yellow solid (6.85 g, 50% yield).

reactant | 9-fluorenone-4-carbonyl chloride | 0.04 mole | C1=CC=C(C=2C3=CC=CC=C3C(C12)=O)C(=O)Cl | C14H7ClO2
reactant | 4,4′-thiobisbenzenethiol | 0.02 mole, 5.16 g | S(C1=CC=C(C=C1)S)C1=CC=C(C=C1)S | C12H10S3
reactant | triethylamine | 0.04 mole, 4.17 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | fluorenone | C1(C=CC=C2C3=CC=CC=C3C=C12)=O | C13H8O
